US05556863
Preparation of 3-propanoyl-4-(2-methylphenylamino)-8-(3-propylthiopropoxy)quinoline
3-Propanoyl-4-chloro-8-(3-propylthiopropoxy)quinoline (2.0 g, 5.7 mmol) and o-toluidine (0.7 g, 6.5 mmol) was refluxed in acetonitrile (10 ml) for 2 h. The solvent was evaporated and the residue was partitioned between methylene chloride and 10% Na2CO3 solution. The organic layer was dried over Na2SO4 and evaporated. The residue was purified by column chromatography (methylene chloride: ethyl acetate 70:30). 1.3 g (54%) of the title compound was obtained. (1H-NMR, 300 MHz, CDCl3) 0.94 (t, 3H), 1.26 (t, 3H), 1.57 (m, 2H), 2.25 (m, 2H), 2.34 (s, 3H), 2.49 (t, 2H), 2.75 (t, 2H), 3.15 (q, 2H), 4.27 (t, 2H) 6.83-7.23 (m, 7H), 9.22 (s, 1H), 11.73 (s, 1H).

reactant | 3-Propanoyl-4-chloro-8-(3-propylthiopropoxy)quinoline | 5.7 mmol, 2.0 g | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OCCCSCCC | C18H22ClNO2S
reactant | o-toluidine | 6.5 mmol, 0.7 g | NC=1C(=CC=CC1)C | C7H9N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-propanoyl-4-(2-methylphenylamino)-8-(3-propylthiopropoxy)quinoline | 1.3 g, 54% | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCCSCCC | C25H30N2O2S
